Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___ - laparoscopic cholecystectomy
 
History of Present Illness:
___ a/w pancreatitis with isolated lipase elevation to 140, now 
c/o abdominal pain with PO intake.  Patient reports having 
episodes of post-prandial abdominal pain since ___, and 
was admitted for similar complaints in ___ he declined 
elective cholecystectomy at that time.  

The current episode started 4 days ago and was a constant severe 
pain which worsened with movement and radiated to his back.  RUQ 
ultrasound revealed cholelithiasis without cholecystitis and no 
evidence of intra or extrahepatic ductal dilatation.  

Last colonoscopy and EGD ___ with 2 colon polyps removed - 
otherwise WNL.

 
Past Medical History:
Past Medical History:  
1. CAD s/p NSTEMI and PCI ___  
2. Paroxysmal atrial fibrillation.  
3. Cholelithiasis 
4. Hypertension.  
5. Dyslipidemia.  
6. Diabetes mellitus type 2, diet controlled.  
7. BPH s/p TURP  
8. Mild Aortic Stenosis  
9. Multinodular goiter with LML dominant nodule (most recent FNA
___ benign, followed by endocrine with yearly ultrasounds)  
.
Past Surgical History:  Open appendectomy ___ years ago, CABGx4

 
Social History:
___
Family History:
Denies
 
Physical Exam:
On transfer to ACS:
Vitals:  97.8 97.6 74 117/79 20 98RA
GEN: A&O, NAD, comfortable and conversant in ___
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses, no hernias. 
Well-healed McBurney incision.
DRE: normal tone, no gross or occult blood
Ext: No ___ edema, ___ warm and well perfused
-
On Discharge:
VSS
Gen - NAD, AOx3,
Heart - RRR
Lungs - CTAB
Abd - soft, appropriately tender, ND; dressings c/d/i
Extrem - no edema

 
Pertinent Results:
___ 05:25AM   WBC-9.1 RBC-4.91 HGB-15.4 HCT-46.0 MCV-94 
MCH-31.4 MCHC-33.5 RDW-13.4
___ 05:25AM   PLT COUNT-191
___ 05:25AM   LIPASE-140*
___ 05:25AM   ALT(SGPT)-23 AST(SGOT)-26 CK(CPK)-163 ALK 
PHOS-55 TOT BILI-0.4
___ 05:32AM   LACTATE-1.5
___ 05:25AM   CK-MB-3 cTropnT-<0.01
---
___ - RUQ U/S: Cholelithiasis without evidence of acute 
cholecystitis.

 
Brief Hospital Course:
Mr. ___ was admitted to the medicine service with RUQ 
abdominal pain.  RUQ ultrasound revealed cholelithiasis without 
cholecystitis and no evidence of intra or extrahepatic ductal 
dilatation.  He had an isolated lipase elevation to 140.  He was 
started on a clear liquid diet which he tolerated, but upon 
advancing had recurrence of pain.  ACS is consulted for 
evaluation for inpatient cholecystectomy on ___.  On ___, 
the patient was pain-free, non-tender on exam, and his lipase 
was 33.  Prior to surgery, his cardiologist, Dr. ___, was 
contacted regarding cardiac optimization, and he recommended no 
changes to the patient's cardiac regimen.  The patient's xarelto 
was held for 2 days prior to surgery.

On ___ he underwent a laparoscopic cholecystectomy.  He was 
maintained on sips to clears on the evening of POD 0.  He failed 
to void and was straight cathed.

On POD1, he tolerated a regular diet, voided, and ambulated 
independently.  His hematocrit was stable, so his xarelto was 
restarted, and he received 81 mg of ASA.  He was discharged with 
PO pain medication and ACS follow-up.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Furosemide 20 mg PO DAILY 
hold for sbp<100 
3. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
hold for sbp<100 
4. Tamsulosin 0.4 mg PO HS 
5. olmesartan *NF* 5 mg Oral daily 
hold for sbp<100 
6. Amlodipine 5 mg PO DAILY 
7. Rivaroxaban 20 mg PO DAILY 
8. Crestor 20 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Aspirin 325 mg PO DAILY 
3. Crestor 20 mg PO DAILY 
4. Furosemide 20 mg PO DAILY 
hold for sbp<100 
5. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
hold for sbp<100 
6. olmesartan *NF* 5 mg Oral daily 
hold for sbp<100 
7. Rivaroxaban 20 mg PO DAILY 
8. Tamsulosin 0.4 mg PO HS 
9. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN severe pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four hours as 
needed for pain Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
gallstone pancreatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for gallstone pancreatitis and underwent a 
laparoscopic cholecystectomy.  There were no complications.  You 
failed to void and had to be straight cathed but succesfully 
voided after that.

You may shower on ___, the day after discharge.  You should 
pat the incisions dry.  Do not scrub the incisions or submerge 
the incisions for at least 7 days.  

Please call your PCP or the ___ clinic if you notice any redness 
or discharge or increase in pain at any of your incisions.  Also 
please call if you do not urinate for >24 hours.

You may eat whatever you wish.
 
Followup Instructions:
___